Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Stroke
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ right handed man with a history of
oculopharyngeal muscular dystrophy, HLD, and HTN who was 
referred
to the ED for stroke workup after multiple left cerebellar
infarcts were discovered on an outpatient brain MRI.

He was driving his scooter by the lake on ___ ___ when he
lost control of his scooter and drove down a ramp into the lake.
He describes that he was aware throughout the incident with no
LOC. He's not quite sure what happened, but thinks he had 
trouble
with the controls and drove into the lake. His wife witnessed 
the
event from a distance and saw no seizure activity or anything
else abnormal. She went to help him and he was startled by the
cold water and in this setting seemed a little confused, but
otherwise at baseline. She looked for signs of a stroke and 
found
none. The scooter was still functional and he was able to
continue riding it just fine. He denied having trouble with
coordination, vision, dizziness, or any other new symptoms. He
has used this scooter for a long time. It is controlled by using
hand controller with both hands. He is not sure what happened to
cause him to drive into the lake. His wife is concerned that me
has been having some mild confusion lately. He saw his PCP later
in the week who ordered a brain MRI for possible syncope workup
which showed several subacute infarcts in the left cerebellum,
prompting referral to the ED. He currently feels at his baseline
with no new complaints. 
 
 
Review of Systems: positive for chronic BLE edema, skin changes
in legs. He has chronic leg weakness, dysphagia, and ptosis. The
pt denies headache, loss of vision, blurred vision, new diplopia
(has rare diplopia, last time months ago), new dysarthria,
worsening dysphagia, recent vertigo. Denies difficulties
producing or comprehending speech.  Denies new focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. The pt denies recent fever or chills.  Denies chest
pain or palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  
 

 
Past Medical History:
-Oculopharyngeal Muscular Dystrophy with Dysphagia (denies
requiring a modified diet at home)
-s/p eyelid raising surgery for bilateral ptosis
-Hyperlipidemia 
-HTN 
-History of Microscopic hematuria 
-Colonic polyp 
-Kidney cysts 
-Hemangioma of liver 
-Pulmonary nodules 
-recent PNA this ___
 
Social History:
___
Family History:
- HTN and cardiac problems in his mother, who is in her ___
- he does not know about his father
- has 2 siblings and 2 children (in their ___ who are healthy
 
Physical Exam:
Vitals:  99.3  88  160/68  16  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT 
Pulmonary: breathing comfortably on RA
Cardiac: RRR on bedside monitor
Abdomen: soft, nondistended
Extremities: 2+ pitting edema BLE
Skin: blister on posterior RLE
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with normal prosody.  There were
no paraphasic errors.  Pt. was able to name both high and low
frequency objects. Able to follow both midline and appendicular
commands.  Attentive, able to name ___ backward without
difficulty. There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3.5 to 3mm bilaterally.  VFF to confrontation with
finger counting. Funduscopic exam revealed no papilledema.
III, IV, VI: EOM were restricted in all directions, with
conjugate gaze, no diplopia, and no nystagmus. Saccades were
hypometric and mildly slow in all directions. Bilateral ptosis 
is
present.
V: Facial sensation intact to light touch in all distributions 
VII: Mild, symmetric facial weakness present bilaterally 
VIII: Hearing intact to voice bilaterally.
IX, X: Palate elevates symmetrically. There is a nasal quality 
to
his voice.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Right>left pronation but no drift bilaterally. No tremor
noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  5-  ___-  ___  3   4+  4+  4+   5-    4   3
R  5-  ___   ___  ___  4+   5-    4   3
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   0    2     0     tr   tr
R   0    2     0     tr   tr

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS. Graphesthesia
intact.

-Coordination: No dysmetria out of proportion to weakness on FNF
bilaterally. Rapid alternating movements with normal and
symmetric cadence and speed. No asymmetry with mirroring. No
rebound. Finger tapping is symmetric bilaterally.

-Gait: non-ambulatory at baseline 

####################################

On discharge, neurologic exam was unchanged, with baseline 
facial and muscular weakness. No dysmetria or other cerebellar 
signs. 
 
Pertinent Results:
___ 02:30PM BLOOD WBC-8.1 RBC-5.12 Hgb-15.3 Hct-45.1 MCV-88 
MCH-29.9 MCHC-33.9 RDW-13.7 RDWSD-44.1 Plt ___
___ 02:30PM BLOOD Neuts-78.7* Lymphs-14.6* Monos-5.2 
Eos-0.4* Baso-0.9 Im ___ AbsNeut-6.37* AbsLymp-1.18* 
AbsMono-0.42 AbsEos-0.03* AbsBaso-0.07
___ 02:30PM BLOOD Glucose-99 UreaN-14 Creat-0.5 Na-137 
K-4.6 Cl-98 HCO3-26 AnGap-18
___ 09:13AM BLOOD CK(CPK)-449*
___ 09:13AM BLOOD CK-MB-11* MB Indx-2.4 cTropnT-0.04*
___ 09:00PM BLOOD %HbA1c-4.9 eAG-94
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ Head/Neck CTA
  
1. Dental amalgam streak artifact limits study. 
2. No acute intracranial abnormality. 
3. Age related involutional changes and changes related to 
chronic small 
vessel ischemic disease. 
4. 2 mm superiorly directed left M1 aneurysm. 
5. 15% stenosis of the right internal carotid artery as per 
NASCET criteria. 
6. Otherwise, patent intracranial and cervical vasculature with 
no evidence 
for dissection. 
7. 5 mm right upper lobe pulmonary nodule. As per the ___ 
Society 
recommendations, for low risk patients, follow-up at 12 months 
is recommended 
and if no change, no further imaging needed. For high risk 
patients, initial 
follow-up CT at ___ months and then at ___ months if no 
change. 
  
RECOMMENDATION(S): 5 mm right upper lobe pulmonary nodule. As 
per the 
___ recommendations, for low risk patients, 
follow-up at 12 
months is recommended and if no change, no further imaging 
needed. For high 
risk patients, initial follow-up CT at ___ months and then at 
___ months if 
no change 

Echo ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is mild 
posterior leaflet mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.

 IMPRESSION: No ASD or PFO seen. Normal global and regional 
biventricular systolic function. Posterior MVP with mild mitral 
regurgitation.    

 
Brief Hospital Course:
Mr. ___ was admitted after cerebellar strokes identified on 
ambulatory scan for stroke work-up.

A1C 4.9. LDL 108 and his home simvastatin 20mg was increased to 
atorvastatin 20mg daily (to monitor for elevated CKs in setting 
of higher statin). Echocardiogram without PFO, EF >55%. 

He did have elevated troponins and CK-MB with normal serial 
EKGs. Troponin peaked on ___ at 0.04 and downtrended to 0.02. 
CK was elevated given muscular dystrophy to 350-450. CK-MB ___ 
during admission with normal MIB index. This was thought to be 
most likely due to his muscular dystrophy. He was asymptomatic 
and thought not to be of clinically significant cardiac 
etiology. 

He was monitored on telemetry without arrhythmia, and will be 
discharged on ___ of Hearts monitor. 

He was evaluated by ___ who recommended discharge to home with 
home ___. He was evaluated by speech who felt he could continue 
regular diet. 

He was continued on his home blood pressure medication losartan 
50mg-HCTZ12.5mg daily. 

TRANSITIONAL ISSUES:
1. CTA noted 2 mm aneurysm in L M1 that will be followed by 
neurology. No other work-up indicated at this time given small 
size in the anterior circulation.
2. 5mm RUL nodule detected, recommend follow-up scan in ___ 
months by PCP.
3. Of note, he did have an elevated troponin that downtrended 
with normal EKGs, asymptomatic and elevated CK in the setting of 
muscular dystrophy. Please evaluate should he become 
symptomatic, but this was thought to be unlikely of cardiac 
etiology.  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 108) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ] atorvastatin 20mg given elevated 
CK at baseline 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 50-12.5 mg oral daily 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1. ROLLING WALKER
Diagnosis: Stroke 434.91
Prognosis: Good
Length of Need: 13 months
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
3. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
4. losartan-hydrochlorothiazide 50-12.5 mg oral daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stroke

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the neurology service after you were found 
to have a stroke. You were started on aspirin 81mg and a high 
cholesterol medication was started. The ultrasound of your heart 
was normal. 

You should follow-up with your PCP and neurology.
 
Followup Instructions:
___